* Z:\trinary\code\circuits\dtflop-ms.asc
XX2 N004 N002 sti
XX4 N003 N004 sti
XX3 N006 Q sti
XX1 Q N005 sti
XXB N002 N003 C tg
XXC N006 N004 C tg
XXA D N003 N001 tg
XXD N005 N006 N001 tg
XX5 C N001 sti

* block symbol definitions
.subckt sti IN OUT
XX1 IN NC_01 OUT NC_02 tinv
.ends sti

.subckt tg IN_OUT OUT_IN CONTROL
M1 OUT_IN _C IN_OUT $G_Vdd CD4007P
M2 IN_OUT N003 OUT_IN $G_Vss CD4007N
M3 $G_Vdd CONTROL _C $G_Vdd CD4007P
M4 _C CONTROL $G_Vss $G_Vss CD4007N
M5 $G_Vdd _C N003 $G_Vdd CD4007P
M6 N003 _C $G_Vss $G_Vss CD4007N
.ends tg

.subckt tinv Vin PTI_Out STI_Out NTI_Out
RP PTI_Out STI_Out 12k
RN STI_Out NTI_Out 12k
MN NTI_Out Vin $G_Vss $G_Vss CD4007N
MP PTI_Out Vin $G_Vdd $G_Vdd CD4007P
.ends tinv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~1\LTC\SwCADIII\lib\cmp\standard.mos
* 1
* 2
* 13
* 3
* 4
* 5
* 6
* 9
* 8
* 12
* 11
* 10
* Pin numbers \nof CD4016
.backanno
.end
