* Z:\College\Senior Year\Trinary Research Project\trinary\circuits\Inverter.asc
XX1 INV_IN1 PTI1 STI1 NTI1 tinv
XX2 INV_IN2 PTI2 STI2 NTI2 tinv

* block symbol definitions
.subckt tinv Vin PTI_Out STI_Out NTI_Out
RP PTI_Out STI_Out 12k
RN STI_Out NTI_Out 12k
MN NTI_Out Vin $G_Vss $G_Vss CD4007N
MP PTI_Out Vin $G_Vdd $G_Vdd CD4007P
.ends tinv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~1\LTC\SwCADIII\lib\cmp\standard.mos
.backanno
.end
