* Z:\College\Senior Year\Trinary Research Project\trinary\circuits\TAND.asc
XX1 TAND_1A TAND_1B TAND_1Y min

* block symbol definitions
.subckt min A B MIN_OUT
XXsti_tand AtnandB MIN_OUT sti
XXtnand A B AtnandB tnand
.ends min

.subckt sti IN OUT
XXinv IN NC_01 OUT NC_02 tinv
.ends sti

.subckt tnand A B TNAND_Out
RP NP TNAND_Out 12k
RN TNAND_Out NN 12k
MP1 NP B $G_Vdd $G_Vdd CD4007P
MP2 NP A $G_Vdd $G_Vdd CD4007P
MN2 NI B $G_Vss $G_Vss CD4007N
MN1 NN A NI $G_Vss CD4007N
.ends tnand

.subckt tinv Vin PTI_Out STI_Out NTI_Out
RP PTI_Out STI_Out 12k
RN STI_Out NTI_Out 12k
MN NTI_Out Vin $G_Vss $G_Vss CD4007N
MP PTI_Out Vin $G_Vdd $G_Vdd CD4007P
.ends tinv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~1\LTC\SwCADIII\lib\cmp\standard.mos
.backanno
.end
