* Z:\trinary\code\circuits\dtflop-ms_test.asc
X0 higher DATA1 DATA2 DATA3 higher

.subckt higher D1 D2 D3
Xflipflop D1 CLK1 QQQ1 dtflop-ms
Xflipflop D2 CLK2 QQQ2 dtflop-ms
Xflipflop D3 CLK3 QQQ3 dtflop-ms
.ends

.subckt dtflop-ms D C Q
X1 D Q sti
X2 C _C sti
.ends dtflop-ms

.subckt sti IN OUT
Xinv IN NC_01 OUT NC_02 tinv
.ends sti

.subckt tinv Vin PTI_Out STI_Out NTI_Out
RP PTI_Out STI_Out 12k
RN STI_Out NTI_Out 12k
.ends tinv

