* Z:\trinary\code\circuits\dtflop-ms2_test.asc
Vclk CLK 0 PULSE(-5 5 0 1p 1p 10n 20n)
Vd D 0 PWL(0 0 1n 0 5n -5 8n -5 9n 0 10n 0 11n 5 21n 5 22n 0 24n 0 25n -5 34n -5 35n -5 40n -5 41n -5 42n 0 43n 5 44n 5 45n -5 46n 0 47n -5 48n 0)
XX1 $G_Vdd $G_Vss tpower
Xff D CLK Q _Q dtflop-ms2

* block symbol definitions
.subckt tpower Vdd Vss
Vdd Vdd 0 5V
Vss 0 Vss 5V
.ends tpower

.subckt dtflop-ms2 D CLK Q _Q
XMaster D _CLK between NC_01 dtflop
XSlave between CLK Q _Q dtflop
XXstiCLK CLK _CLK sti
.ends dtflop-ms2

.subckt dtflop D CLK Q _Q
XXlatch Q_storage _Q Q tnand
X_Xlatch Q _Q_storage _Q tnand
XXgatetop D CLK Q_storage tnand
XXgatebot CLK _D _Q_storage tnand
XXstiD D _D sti
.ends dtflop

.subckt sti IN OUT
XXinv IN NC_01 OUT NC_02 tinv
.ends sti

.subckt tnand A B TNAND_Out
RP NP TNAND_Out 12k
RN TNAND_Out NN 12k
MP1 NP B $G_Vdd $G_Vdd CD4007P
MP2 NP A $G_Vdd $G_Vdd CD4007P
MN2 NI B $G_Vss $G_Vss CD4007N
MN1 NN A NI $G_Vss CD4007N
.ends tnand

.subckt tinv Vin PTI_Out STI_Out NTI_Out
RP PTI_Out STI_Out 12k
RN STI_Out NTI_Out 12k
MN NTI_Out Vin $G_Vss $G_Vss CD4007N
MP PTI_Out Vin $G_Vdd $G_Vdd CD4007P
.ends tinv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~1\LTC\SwCADIII\lib\cmp\standard.mos
.tran 50n
.backanno
.end
