* Z:\trinary\code\circuits\half_adder_test.asc
XX1 $G_Vdd $G_Vss tpower
VA A 0 PWL file=INPUT_A.txt
VB B 0 PWL file=INPUT_B.txt
XXadder A C S B half_adder

* block symbol definitions
.subckt tpower Vdd Vss
Vdd Vdd 0 5V
Vss 0 Vss 5V
.ends tpower

.subckt half_adder A C S B
XXmux_carry1 N001 0 N002 B C mux3-1
XXmux_sum1 N003 A N004 B S mux3-1
XXcd A N003 tcycle_down
XXsu A N004 shift_up
XXrd A N001 rd
XXfd A N002 fd
.ends half_adder

.subckt mux3-1 A B C S Q
XXtgA A Q CTRL_A tg
XXtgC C Q CTRL_C tg
XXtgB B Q CTRL_B tg
XXdecoder S CTRL_A CTRL_B CTRL_C decoder3-1
.ends mux3-1

.subckt tcycle_down IN OUT
XXtnand1 _IN_PTI INI OUT tnand
XXtnand0 _IN_NTI 0 INI tnand
XXnti _IN _IN_NTI nti
XXpti _IN _IN_PTI pti
XXsti IN _IN sti
.ends tcycle_down

.subckt shift_up IN OUT
D§Xrd N002 N001 1N4148
XXsti N002 OUT sti
XXnti IN N001 nti
Rrd N002 0 10Meg
.ends shift_up

.subckt rd IN OUT
Drd OUT IN D
Rrd OUT 0 10Meg
.ends rd

.subckt fd IN OUT
Dfd IN OUT D
Rfd OUT 0 10Meg
.ends fd

.subckt tg IN_OUT OUT_IN CONTROL
M1 OUT_IN _C IN_OUT $G_Vdd CD4007P
M2 IN_OUT C OUT_IN $G_Vss CD4007N
M3 $G_Vdd CONTROL _C $G_Vdd CD4007P
M4 _C CONTROL $G_Vss $G_Vss CD4007N
M5 $G_Vdd _C C $G_Vdd CD4007P
M6 C _C $G_Vss $G_Vss CD4007N
.ends tg

.subckt decoder3-1 IN OUT_i OUT_0 OUT_1
XXPpti1 IN NP pti
XXPpti2 NP OUT_1 pti
XXintN IN OUT_i nti
XXZpti NZtnand OUT_0 pti
XXZsti IN NZsti sti
XXZtnand IN NZsti NZtnand max
.ends decoder3-1

.subckt tnand A B TNAND_Out
RP NP TNAND_Out 12k
RN TNAND_Out NN 12k
MP1 NP B $G_Vdd $G_Vdd CD4007P
MP2 NP A $G_Vdd $G_Vdd CD4007P
MN2 NI B $G_Vss $G_Vss CD4007N
MN1 NN A NI $G_Vss CD4007N
.ends tnand

.subckt nti IN OUT
Xinv IN NC_01 NC_02 OUT tinv
.ends nti

.subckt pti IN OUT
Xinv IN OUT NC_01 NC_02 tinv
.ends pti

.subckt sti IN OUT
XXinv IN NC_01 OUT NC_02 tinv
.ends sti

.subckt max A B MAX_OUT
XXtnor A B AtnorB tnor
XXsti_tor AtnorB MAX_OUT sti
.ends max

.subckt tinv Vin PTI_Out STI_Out NTI_Out
RP PTI_Out STI_Out 12k
RN STI_Out NTI_Out 12k
MN NTI_Out Vin $G_Vss $G_Vss CD4007N
MP PTI_Out Vin $G_Vdd $G_Vdd CD4007P
.ends tinv

.subckt tnor A B TNOR_Out
RP NP TNOR_Out 12k
RN TNOR_Out NN 12k
MN1 NN A $G_Vss $G_Vss CD4007N
MP2 NI A $G_Vdd $G_Vdd CD4007P
MN2 NN B $G_Vss $G_Vss CD4007N
MP1 NI B NP $G_Vdd CD4007P
.ends tnor

.model D D
.lib C:\PROGRA~1\LTC\SwCADIII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~1\LTC\SwCADIII\lib\cmp\standard.mos
.tran 540e-9
.backanno
.end
