* Z:\trinary\code\circuits\mux9-3.asc
XX1 IiA I0A I1A S QA mux3-1
XX2 IiB I0B I1B S QB mux3-1
XX3 IiC I0C I1C S QC mux3-1

* block symbol definitions
.subckt mux3-1 A B C S Q
XXtgA A Q CTRL_A tg
XXtgC C Q CTRL_C tg
XXtgB B Q CTRL_B tg
XXdecoder S CTRL_A CTRL_B CTRL_C decoder3-1
.ends mux3-1

.subckt tg IN_OUT OUT_IN CONTROL
M1 OUT_IN _C IN_OUT $G_Vdd CD4007P
M2 IN_OUT C OUT_IN $G_Vss CD4007N
M3 $G_Vdd CONTROL _C $G_Vdd CD4007P
M4 _C CONTROL $G_Vss $G_Vss CD4007N
M5 $G_Vdd _C C $G_Vdd CD4007P
M6 C _C $G_Vss $G_Vss CD4007N
.ends tg

.subckt decoder3-1 IN OUT_i OUT_0 OUT_1
XX1pti1 IN N1 pti
XX1pti2 N1 OUT_1 pti
XXinti IN OUT_i nti
XX0pti N0tnand OUT_0 pti
XX0sti IN N0sti sti
XX0tnand IN N0sti N0tnand max
.ends decoder3-1

.subckt pti IN OUT
Xinv IN OUT NC_01 NC_02 tinv
.ends pti

.subckt nti IN OUT
Xinv IN NC_01 NC_02 OUT tinv
.ends nti

.subckt sti IN OUT
Xinv IN NC_01 OUT NC_02 tinv
.ends sti

.subckt max A B MAX_OUT
XX1 A B P001 tnor
XX2 P001 MAX_OUT sti
.ends max

.subckt tinv Vin PTI_Out STI_Out NTI_Out
RP PTI_Out STI_Out 12k
RN STI_Out NTI_Out 12k
MN NTI_Out Vin $G_Vss $G_Vss CD4007N
MP PTI_Out Vin $G_Vdd $G_Vdd CD4007P
.ends tinv

.subckt tnor A B TNOR_Out
RP NP TNOR_Out 12k
RN TNOR_Out NN 12k
MN1 NN A $G_Vss $G_Vss CD4007N
MP2 NI A $G_Vdd $G_Vdd CD4007P
MN2 NN B $G_Vss $G_Vss CD4007N
MP1 NI B NP $G_Vdd CD4007P
.ends tnor

.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~1\LTC\SwCADIII\lib\cmp\standard.mos
* 9:3 multiplexer\nSelect from one of three groups of 3 trits
.backanno
.end
