* Based on Z:\trinary\code\circuits\tinv_test.asc
V1 N001 0 -5V
Xsti N001 STI_Out1 sti

* block symbol definitions
.subckt tinv Vin PTI_Out STI_Out NTI_Out
RP PTI_Out STI_Out 12k
RN STI_Out NTI_Out 12k
MN NTI_Out Vin $G_Vss $G_Vss CD4007N
MP PTI_Out Vin $G_Vdd $G_Vdd CD4007P
.ends tinv

.subckt sti IN OUT
XX1 IN NC_01 OUT NC_02 tinv
.ends sti

