* Based on Z:\trinary\code\circuits\tinv_test.asc
V1 N001 0 -5V
Xsti N001 STI_Out1 sti
*Xnti N001 NTI_Out1 nti
*Xpti N001 PTI_Out1 pti

* block symbol definitions
.subckt tinv Vin PTI_Out STI_Out NTI_Out
RP PTI_Out STI_Out 12k
RN STI_Out NTI_Out 12k
MN NTI_Out Vin $G_Vss $G_Vss CD4007N
MP PTI_Out Vin $G_Vdd $G_Vdd CD4007P
.ends tinv

.subckt tpower Vdd Vss
Vdd Vdd 0 5V
Vss 0 Vss 5V
.ends tpower

.subckt sti IN OUT
XX1 IN NC_01 OUT NC_02 tinv
.ends sti

.subckt nti IN OUT
XX1 IN NC_01 NC_02 OUT tinv
.ends nti

.subckt pti IN OUT
XX1 IN OUT NC_01 NC_02 tinv
.ends pti

.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~1\LTC\SwCADIII\lib\cmp\standard.mos
.dc V1 -5 5 0.1
.backanno
.end
