* Z:\trinary\code\circuits\swrom-blank.asc
XXrom NiA NiB NiC N0A N0B N0C N1A N1B N1C ADDRESS D2 D1 D0 mux9-3
XXiA NiA sp3t-trit
XXiB NiB sp3t-trit
XXiC NiC sp3t-trit
XX0A N0A sp3t-trit
XX0B N0B sp3t-trit
XX0C N0C sp3t-trit
XX1A N1A sp3t-trit
XX1B N1B sp3t-trit
XX1C N1C sp3t-trit
XX1 $G_Vdd $G_Vss tpower

* block symbol definitions
.subckt mux9-3 IiA IiB IiC I0A I0B I0C I1A I1B I1C S QC QB QA
XXmux1 IiA I0A I1A S QA mux3-1
XXmux2 IiB I0B I1B S QB mux3-1
XXmux3 IiC I0C I1C S QC mux3-1
.ends mux9-3

.subckt sp3t-trit COM
XXsw $G_Vss 0 $G_Vdd COM sp3t
.ends sp3t-trit

.subckt tpower Vdd Vss
Vdd Vdd 0 5V
Vss 0 Vss 5V
.ends tpower

.subckt mux3-1 A B C S Q
XXtgA A Q CTRL_A tg
XXtgC C Q CTRL_C tg
XXtgB B Q CTRL_B tg
XXdecoder S CTRL_A CTRL_B CTRL_C decoder3-1
.ends mux3-1

.subckt sp3t 1 2 3 COM
C1 1 COM 1pF
C2 COM 2 1pF
C3 COM 3 1pF
.ends sp3t

.subckt tg IN_OUT OUT_IN CONTROL
M1 OUT_IN _C IN_OUT $G_Vdd CD4007P
M2 IN_OUT C OUT_IN $G_Vss CD4007N
M3 $G_Vdd CONTROL _C $G_Vdd CD4007P
M4 _C CONTROL $G_Vss $G_Vss CD4007N
M5 $G_Vdd _C C $G_Vdd CD4007P
M6 C _C $G_Vss $G_Vss CD4007N
.ends tg

.subckt decoder3-1 IN OUT_i OUT_0 OUT_1
XXPpti1 IN NP pti
XXPpti2 NP OUT_1 pti
XXintN IN OUT_i nti
XXZpti NZtnand OUT_0 pti
XXZsti IN NZsti sti
XXZtnand IN NZsti NZtnand max
.ends decoder3-1

.subckt pti IN OUT
Xinv IN OUT NC_01 NC_02 tinv
.ends pti

.subckt nti IN OUT
Xinv IN NC_01 NC_02 OUT tinv
.ends nti

.subckt sti IN OUT
XXinv IN NC_01 OUT NC_02 tinv
.ends sti

.subckt max A B MAX_OUT
XXtnor A B AtnorB tnor
XXsti_tor AtnorB MAX_OUT sti
.ends max

.subckt tinv Vin PTI_Out STI_Out NTI_Out
RP PTI_Out STI_Out 12k
RN STI_Out NTI_Out 12k
MN NTI_Out Vin $G_Vss $G_Vss CD4007N
MP PTI_Out Vin $G_Vdd $G_Vdd CD4007P
.ends tinv

.subckt tnor A B TNOR_Out
RP NP TNOR_Out 12k
RN TNOR_Out NN 12k
MN1 NN A $G_Vss $G_Vss CD4007N
MP2 NI A $G_Vdd $G_Vdd CD4007P
MN2 NN B $G_Vss $G_Vss CD4007N
MP1 NI B NP $G_Vdd CD4007P
.ends tnor

.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~1\LTC\SwCADIII\lib\cmp\standard.mos
.backanno
.end
