* Z:\trinary\code\circuits\tnor_test.asc
VA A 0 PWL file=INPUT_A.txt
VB B 0 PWL file=INPUT_B.txt
XX1 A B TNOR_Out tnor
XX2 $G_Vdd $G_Vss tpower

* block symbol definitions
.subckt tnor A B TNOR_Out
RP NP TNOR_Out 12k
RN TNOR_Out NN 12k
MN1 NN A $G_Vss $G_Vss CD4007N
MP2 NI A $G_Vdd $G_Vdd CD4007P
MN2 NN B $G_Vss $G_Vss CD4007N
MP1 NI B NP $G_Vdd CD4007P
.ends tnor

.subckt tpower Vdd Vss
Vdd Vdd 0 5V
Vss 0 Vss 5V
.ends tpower

.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~1\LTC\SwCADIII\lib\cmp\standard.mos
.tran 500ns
.backanno
.end
